US06703392B2
2-[1-(3,4-dimethoxy-benzyl)-8-allyloxy-5-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-5-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide with allyl bromide

reactant | 2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-5-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)O)OC)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C27H31N3O5
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 2-[1-(3,4-dimethoxy-benzyl)-8-allyloxy-5-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OCC=C)OC)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C30H35N3O5
